US05316755
The 2-methanesulfonyloxypentadecane (34.4 g, 102 mmol) was reacted with 4-iodophenol (22.7 g, 103 mmol) and potassium carbonate (14.3 g, 103 mmol) in DMF (200 ml) as per 2-(4-iodophenoxy)decane except that the temperature of the oil bath was maintained at 80° C. for 15 hrs and increased to 86° C. with stirring for an additional 24 hrs. At the end of this period, NMR spectral analysis indicated that the reaction was complete. The reaction mixture was processed as for 2-(4-iodophenoxy)decane except with four times the volumes to provide a light yellow oil. Flash column chromatography (silica, hexanes) yielded 2-(4-iodophenoxy)pentadecane (18.9 g, 43.0%) as a clear oil.

reactant | 2-methanesulfonyloxypentadecane | 102 mmol, 34.4 g | CS(=O)(=O)OC(C)CCCCCCCCCCCCC | C16H34O3S
reactant | 4-iodophenol | 103 mmol, 22.7 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 103 mmol, 14.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-iodophenoxy)decane | IC1=CC=C(OC(C)CCCCCCCC)C=C1 | C16H25IO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(4-iodophenoxy)pentadecane | 18.9 g, 43.0% | IC1=CC=C(OC(C)CCCCCCCCCCCCC)C=C1 | C21H35IO
